US07465809B2
2-Methyl-N-pyridin-4-yl-acrylamide
LiHMDS (1.0 N in THF, 23.6 mmoL, 24 mL) was added dropwise into pyridine (11.8 mmoL, 1.11 g) in THF (10 mL) at 0° C. After 10 min, 2-methyl-acryloyl chloride (11.8 mmoL, 1.43 mL) was added into the reaction at 0° C. The reaction was then slowly warmed to room temperature. The solvent was removed and the residue was partitioned between Et2O and water. The Et2O layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material (the brown oil) was then purified by column chromatography (silica gel, EtOAc as eluent) to yield the title compound as a reddish oil.

reactant | LiHMDS | 1.0 N, 24 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | pyridine | 1.11 g | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-acryloyl chloride | 1.43 mL | CC(C(=O)Cl)=C | C4H5ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Methyl-N-pyridin-4-yl-acrylamide | CC(C(=O)NC1=CC=NC=C1)=C | C9H10N2O
